US04621142
(A) 4-(aminosulfonyl)-3-thiophenecarboxylic acid
Preparation is according to the method disclosed in U.S. Pat. No. 4,028,373. A solution of 0.5 g. of 4-(aminosulfonyl)-3-thiophenecarboxylic acid methyl ester in 20 ml. of 10% aqueous sodium hydroxide is allowed to sit at room temperature for 3 days. The solution is acidified with concentrated hydrochloric acid. The precipitate which forms is collected to give 0.35 g. of product. A small amount is recrystallized twice from ethyl acetate (petroleum ether is added to the cloudy point to initiate precipitation) to give the analytical sample, m.p. 222°-224° C.

reactant | 4-(aminosulfonyl)-3-thiophenecarboxylic acid methyl ester | COC(=O)C1=CSC=C1S(=O)(=O)N | C6H7NO4S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 4-(aminosulfonyl)-3-thiophenecarboxylic acid | NS(=O)(=O)C=1C(=CSC1)C(=O)O | C5H5NO4S2
